US07528160B2
2-{5-[1-(3,5-Bis-trifluoromethyl-phenyl)-5-methyl-1H-pyrazol-4-ylmethoxy]-indol-1-yl}-2-methyl-propionic acid ethyl ester
To a solution of 1-(3,5-bis-trifluoromethyl-phenyl)-4-chloromethyl-5-methyl-1H-pyrazole (170 mg, 0.5 mmol) and (2-(5-hydroxy-indol-1-yl)-2-methyl-propionic acid (150 mg) in acetonitrile (3 mL) is added Cs2CO3 (325 mg, 1 mmol). The mixture is stirred at room temperature over night, quenched by water, extracted with ethyl acetate, dried over sodium sulfate. Concentration yields the crude product.

reactant | 1-(3,5-bis-trifluoromethyl-phenyl)-4-chloromethyl-5-methyl-1H-pyrazole | 0.5 mmol, 170 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)N1N=CC(=C1C)CCl)(F)F | C13H9ClF6N2
reactant | 2-(5-hydroxy-indol-1-yl)-2-methyl-propionic acid | 150 mg | OC=1C=C2C=CN(C2=CC1)C(C(=O)O)(C)C | C12H13NO3
reactant | Cs2CO3 | 1 mmol, 325 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | acetonitrile | 3 mL | C(C)#N | C2H3N
product | 2-{5-[1-(3,5-Bis-trifluoromethyl-phenyl)-5-methyl-1H-pyrazol-4-ylmethoxy]-indol-1-yl}-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)N1C=CC2=CC(=CC=C12)OCC=1C=NN(C1C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C27H25F6N3O3
